US07659394B2
(R)-2-[(S)-Pyridin-3-yl-(2-trifluoromethoxy-phenoxy)-methyl]-morpholine was synthesized via morpholin-2-yl-pyridin-3-yl-methanol from 3-bromopyridine and 2-trifluoromethoxyphenol according to general procedure C and was isolated as a gummy oil. MS (APCI): 355 [M+H]+.

reactant | morpholin-2-yl-pyridin-3-yl-methanol | N1CC(OCC1)C(O)C=1C=NC=CC1 | C10H14N2O2
reactant | 3-bromopyridine | BrC=1C=NC=CC1 | C5H4BrN
reactant | 2-trifluoromethoxyphenol | FC(OC1=C(C=CC=C1)O)(F)F | C7H5F3O2
product | (R)-2-[(S)-Pyridin-3-yl-(2-trifluoromethoxy-phenoxy)-methyl]-morpholine | N1=CC(=CC=C1)[C@@H]([C@H]1CNCCO1)OC1=C(C=CC=C1)OC(F)(F)F | C17H17F3N2O3
